US08304419B2
5-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(methylthio)-4-pyrimidinecarboxamide
In a 1 dram vial, 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (25 mg, 0.080 mmol), DIPEA (0.014 mL, 0.080 mmol) and 5-chloro-2-(methylthio)-4-pyrimidinecarboxylic acid (16.44 mg, 0.080 mmol) were dissolved in DMF (1 mL). HATU was added (30.6 mg, 0.080 mmol) and the solution stirred overnight. The reaction mixture was diluted to 2 mL with MeOH. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.017 g, 38%) as a white solid. 1H NMR (400 MHz, Acetone-d6): δ ppm 8.73-8.81 (m, 2H), 7.63 (t, 1H), 7.47-7.54 (m, 1H), 7.42-7.47 (m, 1H), 7.36-7.41 (m, 2H), 4.69 (d, 2H), 2.56 (br. s., 3H). LCMS m/z 496.9 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.080 mmol, 25 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.080 mmol, 0.014 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-2-(methylthio)-4-pyrimidinecarboxylic acid | 0.080 mmol, 16.44 mg | ClC=1C(=NC(=NC1)SC)C(=O)O | C6H5ClN2O2S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 5-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(methylthio)-4-pyrimidinecarboxamide | 0.017 g, 38% | ClC=1C(=NC(=NC1)SC)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C20H12Cl3FN4O2S
